US05108486
A solution of 3.0 g (0.010 mole) of 4-(4-diethylaminophenyl)-2-(2-hydroxyethyl)-3-thiosemicarbazide and 2.52 g (0.0120 mole) of trifluoroacetic anhydride in 250 ml of toluene was stirred at room temperature for approximately 24 hours. The reaction mixture was neutralized with an aqueous sodium bicarbonate solution. The aqueous phase was extracted with ethyl acetate, and the organic phases were combined. The combined organic phase was dried over anhydrous magnesium sulfate and was filtered. The filtrate was evaporated under reduced pressure, leaving a residue. This residue was purified by column chromatography to yield 0.5 g of 4-(4-diethylaminophenyl)-3-trifluoromethyl-1-(2-hydroxyethyl)-4,5-dihydro-1,2,4-triazol-5(1H)-thione as an oil, Compound 171 of Table 1. The nmr and mass spectra were consistent with the proposed structure.

reactant | 4-(4-diethylaminophenyl)-2-(2-hydroxyethyl)-3-thiosemicarbazide | 0.010 mole, 3.0 g | C(C)N(C1=CC=C(C=C1)NC(N(N)CCO)=S)CC | C13H22N4OS
reactant | trifluoroacetic anhydride | 0.0120 mole, 2.52 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-diethylaminophenyl)-3-trifluoromethyl-1-(2-hydroxyethyl)-4,5-dihydro-1,2,4-triazol-5(1H)-thione | 0.5 g | C(C)N(C1=CC=C(C=C1)N1C(=NN(C1=S)CCO)C(F)(F)F)CC | C15H19F3N4OS
